US08735390B2
(2-(6-Chloro-1-(phenylsulfonyl)-1H-indazol-4-yl)oxazol-5-yl)methanol (1.0 eq., 1 wt, 34.0 g) and triphenylphosphine dibromide (1.3 eq., 1.32 wt, 45.0 g) are stirred in dichloromethane (15 vols, 510 ml) at 20 (±3° C.) under a nitrogen atmosphere for 1 hr. The reaction is then checked by HPLC for completion. Once complete methanol (0.8 vols, 27.2 ml) is added to the reaction, with vigorous stirring 8% w/w sodium hydrogen carbonate solution (10 vols, 340 ml) is added drop wise over 15 minutes (check aqueous pH>7). The mixture is heated to 30° C. (±3° C.) and stirred together for 10 minutes, then separated, the aqueous is back extracted with dichloromethane (5 vols, 170 ml) and the combined dichloromethane layers are washed with water (5 vols, 170 ml). The dichloromethane solution is then evaporated under reduced pressure to a volume of approximately 4 vols. To the solution is added methanol (15 vols, 510 ml) and the solution evaporated under reduced pressure at 260 mbar, 20° C. to remove the remaining dichloromethane down to −15 vols. The suspension is then stirred at 20° C. for at least 6 hrs. The solid is filtered, washed with methanol (2×1 vols, 2×34 ml), sucked dry for 20 minutes, then dried under high vacuum at 30° C. (±3° C.) to constant probe temperature to afford 5-(bromomethyl)-2-(6-chloro-1-(phenylsulfonyl)-1H-indazol-4-yl)oxazole as a beige solid.

reactant | (2-(6-Chloro-1-(phenylsulfonyl)-1H-indazol-4-yl)oxazol-5-yl)methanol | 34.0 g, 1.0 eq. | ClC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=CN1)CO | C17H12ClN3O4S
reactant | triphenylphosphine dibromide | 45.0 g, 1.3 eq. | [Br-].[Br-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
reactant | methanol | 27.2 ml | CO | CH4O
reactant | sodium hydrogen carbonate | 340 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 510 ml | ClCCl | CH2Cl2
product | 5-(bromomethyl)-2-(6-chloro-1-(phenylsulfonyl)-1H-indazol-4-yl)oxazole | BrCC1=CN=C(O1)C1=C2C=NN(C2=CC(=C1)Cl)S(=O)(=O)C1=CC=CC=C1 | C17H11BrClN3O3S
